US09233946B2
N-[3-(1H-Tetrazol-5-yl)phenyl]naphthalene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, starting from 2-naphthalenesulfonyl chloride (13 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8 mg, 0.05 mmol) giving 10 mg (57%) of the title compound. MS (ESI+) calcd for C17H13N5O2S 351.078995, found 351.080505

reactant | 2-naphthalenesulfonyl chloride | 0.055 mmol, 13 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | 5-(3-aminophenyl)tetrazole | 0.05 mmol, 8 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | N-[3-(1H-Tetrazol-5-yl)phenyl]naphthalene-2-sulfonamide | 10 mg, 57% | N1N=NN=C1C=1C=C(C=CC1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C17H13N5O2S
